US05866566
10,11-dihydro-10-hydroxyimino-5H-dibenz[b,f]azepine-5-carboxamide
A suspension of 4.0 g (15.86 mmol) of 10,11-dihydro-10-oxo-5H-dibenz[b,f]azepine-5-carboxamide and 3.86 g (55.49 mmol) of hydroxylamine hydrochloride in 100 mL of absolute alcohol was treated with 3.76 g (47.57 mmol) of pyridine. The mixture was heated at reflux for 1 hour and then the ethanol was removed by evaporation under reduced pressure. The residue was partitioned between 150 mL of water and 150 mL of dichloromethane. The organic layer was separated and washed with 50 mL of 1M aqueous HCl, a saturated solution of NaHCO3 and brine, then dried by sodium sulphate. Filtration and evaporation of the solvent under reduced pressure gave an off-white solid which was triturated with hot ethanol to give the desired compound as a white powder of m.p. 230.4° to 231.5° C.

reactant | 10,11-dihydro-10-oxo-5H-dibenz[b,f]azepine-5-carboxamide | 15.86 mmol, 4.0 g | O=C1CC2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2 | C15H12N2O2
reactant | hydroxylamine hydrochloride | 55.49 mmol, 3.86 g | Cl.NO
reactant | pyridine | 47.57 mmol, 3.76 g | N1=CC=CC=C1 | C5H5N
product | 10,11-dihydro-10-hydroxyimino-5H-dibenz[b,f]azepine-5-carboxamide | ON=C1CC2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2 | C15H13N3O2
